US06432993B1
N-Methyl-N-[2-nitro-5-(pentafluorophenoxy)phenyl]amine
To a suspension of sodium hydride (55 wt. %, 1.66 g) in anhydrous N,N-dimethylformamide (50 ml) was added pentafluorophenol (6.38 g). The mixture was stirred at ambient temperature for several minutes. To this mixture was added t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate (10 g) in small portions and the mixture was stirred at 150° C. for 15 hours. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and water. The extract was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane/toluene=4/1 as the eluant to give the title compound (2.2 g).

reactant | sodium hydride | 1.66 g | [H-].[Na+]
reactant | pentafluorophenol | 6.38 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | t-butyl N-(5-chloro-2-nitrophenyl)-N-methylcarbamate | 10 g | ClC=1C=CC(=C(C1)N(C(OC(C)(C)C)=O)C)[N+](=O)[O-] | C12H15ClN2O4
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-Methyl-N-[2-nitro-5-(pentafluorophenoxy)phenyl]amine | 2.2 g | CNC1=C(C=CC(=C1)OC1=C(C(=C(C(=C1F)F)F)F)F)[N+](=O)[O-] | C13H7F5N2O3
